US07951816B2
N-(4-methoxybenzyl)-N,N-bis[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl)methyl]amine (Compound 1)
To a solution of 1-({[2-(trimethylsilyl)ethyloxy]methyl}-1H-imidazole-2-carboaldehyde (CAS Registry Number: 101226-42-0, 1.5 g) and {[4-(methyloxy)phenyl]methyl}amine (0.39 mL) in dichloromethane (containing 1% acetic acid) (10 mL), sodium triacetoxyborohydride (1.91 g) was added. The reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was added by an aqueous 1 N sodium hydroxide solution and then extracted with dichloromethane. The extract thus obtained was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated. The obtained residue was purified by silica gel column chromatography (ethyl acetate:methanol:triethylamine=1:0:0→10:1:0→10:1:0.1) to obtain the title compound (1.71 g) having the following physical properties.

reactant | {[2-(trimethylsilyl)ethyloxy]methyl}-1H-imidazole-2-carboaldehyde | 1.5 g | C[Si](CCOCN1C(=NC=C1)C=O)(C)C | C10H18N2O2Si
reactant | {[4-(methyloxy)phenyl]methyl}amine | 0.39 mL | COC1=CC=C(C=C1)CN | C8H11NO
reactant | sodium triacetoxyborohydride | 1.91 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-methoxybenzyl)-N,N-bis[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl)methyl]amine | 1.71 g | COC1=CC=C(CN(CC=2N(C=CN2)COCC[Si](C)(C)C)CC=2N(C=CN2)COCC[Si](C)(C)C)C=C1 | C28H47N5O3Si2
